US06936602B1
To anhydrous acetic acid (0.84 ml) was added dropwise formic acid (0.4 ml), under ice-cooling, and the mixture was stirred, under nitrogen atmosphere, at 50° C. for 2 hours. To the mixture was added THF (5 ml), and to the mixture was added dropwise, under ice-cooling, a solution of methyl 7-bromo-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1.0 g) in THF (15 ml). The mixture was stirred at room temperature overnight. The solvent was evaporated, and to the residue was added water. The mixture was extracted with ethyl acetate. The organic layer was washed with sodium hydrogen carbonate solution, water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated to give methyl 7-bromo-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1.07 g) as colorless crystals.

reactant | acetic acid | 0.84 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 0.4 ml | C(=O)O | CH2O2
reactant | methyl 7-bromo-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1.0 g | BrC=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C12H12BrNO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl 7-bromo-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1.07 g | BrC=1C=CC2=C(C=C(CCN2C=O)C(=O)OC)C1 | C13H12BrNO3
